### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Add theorems about the coloring of the ends of a walk in a bicolored graph

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 1]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
   · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
       chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
+theorem coloring_apply_iff_of_bicoloring_of_walk_general {α} (G : SimpleGraph α)
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:51]: Maybe this?
```suggestion
theorem Coloring.bicoloring_apply_iff_of_walk {α} {G : SimpleGraph α}
```
The `_general` is against the mathlib naming convention for theorems. Using `bicoloring` here is pushing it a little, though if we add this word to the module docs in this module it's fine.

Putting it into the `Coloring` namespace means you can use dot notation on `c` to access it. I also made the `G` argument implicit since it's implied by both `c` and `p`.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 2]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+  induction p with
+  | nil => simp
+  | @cons u v w h p ih =>
+    simp only [Walk.length_cons, Nat.even_add_one]
+    have : ¬ c u = true ↔ c v = true := by
+      rw [← not_iff, ← Bool.eq_iff_iff]
+      exact c.valid h
+    tauto
+
+theorem coloring_apply_iff_of_bicoloring_of_walk {α} (G : SimpleGraph α)
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:63]: Perhaps
```suggestion
theorem Coloring.bicoloring_apply_iff_of_head_walk {α} {G : SimpleGraph α}
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 3]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    (c : G.Coloring Bool) {u v : α} (p : G.Walk u v) (hcu : c u) :
+    c v ↔ Even p.length := by
+  rw [coloring_apply_iff_of_bicoloring_of_walk_general G c p]
+  exact iff_true_left hcu
+
+theorem coloring_apply_iff_of_bicoloring_of_walk' {α} (G : SimpleGraph α)
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:69]: Perhaps
```suggestion
theorem Coloring.bicoloring_apply_iff_of_not_head_walk {α} {G : SimpleGraph α}
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 4]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+    simp only [Walk.length_cons, Nat.even_add_one]
+    have : ¬ c u = true ↔ c v = true := by
+      rw [← not_iff, ← Bool.eq_iff_iff]
+      exact c.valid h
+    tauto
+
+theorem Coloring.bicoloring_apply_iff_of_head_walk {α} {G : SimpleGraph α}
+    (c : G.Coloring Bool) {u v : α} (p : G.Walk u v) (hcu : c u) :
+    c v ↔ Even p.length := by
+  rw [Coloring.bicoloring_apply_iff_of_walk c p]
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:66]:
```suggestion
  rw [c.bicoloring_apply_iff_of_walk p]
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 5]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
+  exact iff_true_left hcu
+
+theorem Coloring.bicoloring_apply_iff_of_not_head_walk {α} {G : SimpleGraph α}
+    (c : G.Coloring Bool) {u v : α} (p : G.Walk u v) (hcu : !c u) :
+    c v ↔ Odd p.length := by
+  rw [Coloring.bicoloring_apply_iff_of_walk c p, Nat.even_iff_not_odd]
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:72]:
```suggestion
  rw [c.bicoloring_apply_iff_of_walk p, Nat.even_iff_not_odd]
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 6]
```diff
@@ -48,4 +48,28 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
   · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
       chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
 
+theorem Coloring.bicoloring_apply_iff_of_walk {α} {G : SimpleGraph α}
+    (c : G.Coloring Bool) {u v : α} (p : G.Walk u v) :
+    c v ↔ (c u ↔ Even p.length) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: Maybe
```suggestion
theorem Coloring.even_length_iff_congr {α} {G : SimpleGraph α}
    (c : G.Coloring Bool) {u v : α} (p : G.Walk u v) :
    Even p.length ↔ (c u ↔ c v) := by
```
where you can use the (apparently missing!) lemmas `iff_assoc : (p ↔ (q ↔ r)) ↔ ((p ↔ q) ↔ r)`, `iff_left_comm : (p ↔ (q ↔ r)) ↔ (q ↔ (p ↔ r))` and `iff_assoc : ((p ↔ q) ↔ r) ↔ ((p ↔ r) ↔ q)` and the existing `iff_comm` to get back to your original statement

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: I think `Coloring.bicoloring_apply_iff_of_walk` is the more useful form. The point of this is that you can rewrite `c v` to `c u` or `not (c u)` conditionally on whether or not `Even p.length` is true.

The `Coloring.even_length_iff_congr` form is nice and symmetric though, so it could be worth having around too.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean]: Yes, I think my lemma suggestion would be better if we also had `Odd p.length ↔ (c u ↔ ¬ c v)` and `Odd p.length ↔ (¬ c u ↔ c v)`. Then you really can "rewrite `c v` to `c u` or `not (c u)` conditionally on whether or not `Even p.length` is true".

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: I suspect what we actually want is `Even p.length ↔ (c u ↔ c v)` and `Odd p.length ↔ (c u ↔ ¬ c v)`(/`Odd p.length ↔ (¬ c u ↔ c v)` so that we really "can rewrite `c v` to `c u` or `not (c u)` conditionally on whether or not `Even p.length` is true"

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: @YaelDillies The benefit of the `Coloring.bicoloring_apply_iff_of_walk` formulation is that it introduces the `Even p.length` term. I think many times you won't have `Even p.length` or `Odd p.length` in context or in an easy-to-express form. It's using `↔` more like a boolean operator to conditionally negate.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: I guess I am missing the greater context here

Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:53]: Hmm... the fact that these are Bool-valued rather than Prop-valued walks makes the use case I have in mind not work very well. The statement would need to be `c u = (c v == decide (Even p.length))` instead.

I think in many cases, you would also want the forms `Even p.length -> c u = c v` and `Odd p.length -> c u = ! c v`, since that way the `Even`/`Odd` conditions can create new goals. The purpose is to be able to use a walk to rewrite `c u` to `c v`.

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean]: I added the `Even p.length ↔ (c u ↔ c v)` and `Odd p.length ↔ (¬c u ↔ c v)` versions
I also added missing `iff_assoc`, `iff_left_comm` ans some more (witch may need better names) for probing the other theorems from one. I added them in `Mathlib/Init/Logic.lean`, but maybe you think that they should go somewhere else

File: Mathlib/Init/Logic.lean [hunk 7]
```diff
@@ -87,6 +87,27 @@ attribute [refl] Iff.refl
...
+
+theorem ne_iff_iff_iff_ne : (¬a ↔ b) ↔ (a ↔ ¬b) := by
+  match Classical.em a with
+  | Or.inl ha => simp only [iff_iff_of ha, iff_iff_ne_of_ne (not_not_intro ha)]
+  | Or.inr ha => simp only [iff_iff_of ha, iff_iff_ne_of_ne ha, Classical.not_not]
+
+theorem iff_assoc : (a ↔ (b ↔ c)) ↔ ((a ↔ b) ↔ c) := by
+  match Classical.em a with
+  | Or.inl ha => simp only [iff_iff_of ha]
+  | Or.inr ha => simp only [iff_iff_ne_of_ne ha, Classical.not_iff]
```
Comment (YaelDillies) [inline Mathlib/Init/Logic.lean:104]: The proof is just `tauto`, hopefully?

File: Mathlib/Init/Logic.lean [hunk 8]
```diff
@@ -87,6 +87,27 @@ attribute [refl] Iff.refl
...
+
+theorem iff_left_comm : (a ↔ (b ↔ c)) ↔ (b ↔ (a ↔ c)) := by
+  match Classical.em a with
+  | Or.inl ha => simp only [iff_iff_of ha]
+  | Or.inr ha => simp only [iff_iff_ne_of_ne ha, Classical.not_iff, ne_iff_iff_iff_ne]
```
Comment (YaelDillies) [inline Mathlib/Init/Logic.lean:109]: You're missing `iff_right_comm`

File: Mathlib/Init/Logic.lean [hunk 9]
```diff
@@ -87,6 +87,27 @@ attribute [refl] Iff.refl
 attribute [trans] Iff.trans
 attribute [symm] Iff.symm
 
+theorem iff_iff_of (h : a) : (a ↔ b) ↔ b :=
+  Iff.intro (fun h₁ => h₁.mp h) (fun h₁ => (iff_true_right h₁).mpr h)
```
Comment (YaelDillies) [inline Mathlib/Init/Logic.lean:91]: This is `iff_true_left`

File: Mathlib/Init/Logic.lean [hunk 10]
```diff
@@ -87,6 +87,27 @@ attribute [refl] Iff.refl
...
+
+theorem iff_iff_ne_of_ne (h : ¬a) : (a ↔ b) ↔ ¬b :=
+  Iff.intro (fun h₁ => (iff_false_right h).mp h₁.symm) (fun h₁ => (iff_false_right h₁).mpr h)
```
Comment (YaelDillies) [inline Mathlib/Init/Logic.lean:94]: This is `iff_false_left`

File: Mathlib/Init/Logic.lean (hunk 7 above)
Comment (IvanRenison) [reply Mathlib/Init/Logic.lean]: `tauto` is not available here. It is defined in a file that depends on this one. Maybe I can move these theorems somewhere else, but I don't now exactly where it will be a good place

File: Mathlib/Init/Logic.lean [hunk 11]
```diff
@@ -87,26 +87,20 @@ attribute [refl] Iff.refl
 attribute [trans] Iff.trans
 attribute [symm] Iff.symm
 
-theorem iff_iff_of (h : a) : (a ↔ b) ↔ b :=
-  Iff.intro (fun h₁ => h₁.mp h) (fun h₁ => (iff_true_right h₁).mpr h)
-
-theorem iff_iff_ne_of_ne (h : ¬a) : (a ↔ b) ↔ ¬b :=
-  Iff.intro (fun h₁ => (iff_false_right h).mp h₁.symm) (fun h₁ => (iff_false_right h₁).mpr h)
-
 theorem ne_iff_iff_iff_ne : (¬a ↔ b) ↔ (a ↔ ¬b) := by
```
Comment (YaelDillies) [inline Mathlib/Init/Logic.lean:90]: This is basically `not_iff_comm`, `iff_not_comm`.

File: Mathlib/Init/Logic.lean (hunk 7 above)
Comment (IvanRenison) [reply Mathlib/Init/Logic.lean]: Maybe I should move them to `Mathlib/Logic/Basic.lean`?

Comment (IvanRenison) [reply Mathlib/Init/Logic.lean]: `tauto` also depend on `Mathlib/Logic/Basic.lean`, but I moved it any way for using `iff_not_comm`

Comment (YaelDillies) [reply Mathlib/Init/Logic.lean]: You should move them to `Logic.Lemmas`. That's exactly the place for "Wants to go in `Logic.Basic` but uses an advanced tactic"

File: Mathlib/Logic/Lemmas.lean [hunk 12]
```diff
@@ -6,18 +6,22 @@ Authors: Yaël Dillies
...
 # More basic logic properties
 A few more logic lemmas. These are in their own file, rather than `Logic.Basic`, because it is
-convenient to be able to use the `split_ifs` tactic.
+convenient to be able to use the `tauto` or `split_ifs` tactics.
 ## Implementation notes
 We spell those lemmas out with `dite` and `ite` rather than the `if then else` notation because this
 would result in less delta-reduced statements.
 -/
 
+theorem iff_assoc {a b c : Prop} : (a ↔ (b ↔ c)) ↔ ((a ↔ b) ↔ c) := by tauto
```
Comment (YaelDillies) [inline Mathlib/Logic/Lemmas.lean:22]:
```suggestion
theorem iff_assoc {a b c : Prop} : ((a ↔ b) ↔ c) ↔ (a ↔ (b ↔ c)) := by tauto
```
to match `mul_assoc`

**Review by YaelDillies — APPROVED** [review]
Looks reasonable to me now!

maintainer merge

**Review by b-mehta — APPROVED** [review]
bors merge
